US08022062B2
Dissolve (±)-1-(3-fluorophenyl)ethylamine hydrochloride (42.5 g, 0.24 mol) in THF (520 mL) and saturated aqueous NaHCO3 (430 mL). Add di-tert-butyl-dicarbonate (69 g, 0.31 mol) and stir for 16 h at ambient temperature. Separate the organic layer, dilute with EtOAc (300 mL) and wash with 2N aqueous NaOH (1×400 mL) and water (2×200 mL). Concentrate the organic layer in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to obtain (±)-N-[1-(3-fluorophenyl)ethyl]-carbamic acid tert-butyl ester (56 g, 97%). GC-MS m/z: 183 [M−C4H9)+].

reactant | (±)-1-(3-fluorophenyl)ethylamine hydrochloride | 0.24 mol, 42.5 g | Cl.FC=1C=C(C=CC1)C(C)N
reactant | di-tert-butyl-dicarbonate | 0.31 mol, 69 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 520 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 430 mL | C(=O)(O)[O-].[Na+]
product | (±)-N-[1-(3-fluorophenyl)ethyl]-carbamic acid tert-butyl ester | 56 g, 97% | C(C)(C)(C)OC(NC(C)C1=CC(=CC=C1)F)=O | C13H18FNO2
